US08729098B2
(7-Fluoro-3,4-dihydroquinolin-1(2H)-yl)(8-hydroxyquinolin-7-yl)methanone
A mixture of 8-hydroxyquinoline-7-carboxylic acid (100 mg, 0.53 mmol) and di(1H-imidazol-1-yl)methanone (86 mg, 0.53 mmol) in THF (6 mL) was heated to reflux for 4 h, under nitrogen. The reaction mixture was allowed to cool to RT and 7-fluoro-1,2,3,4-tetrahydroquinoline hydrochloride (84.4 mg, 0.45 mmol) and TEA (0.062 mL, 0.45 mmol) were added. The resulting mixture was heated in a MW oven at 120° C. for 90 min and then at 140° C. for 2 h. The reaction mixture was then quenched with H2O and an aqueous saturated solution of sodium hydrogen carbonate, and twice extracted with DCM. The separated organics were dried over Na2SO4, filtered and concentrated under reduced pressure. The residue was purified by preparative HPLC. Product-containing fractions were combined, made basic with a saturated aqueous solution of sodium hydrogen carbonate and CH3CN was removed under reduced pressure. The aqueous phase was extracted with DCM and the separated organics dried over Na2SO4, filtered and concentrated to dryness, affording the title compound (19 mg, 0.06 mmol) as a off-white solid.

reactant | 8-hydroxyquinoline-7-carboxylic acid | 0.53 mmol, 100 mg | OC=1C(=CC=C2C=CC=NC12)C(=O)O | C10H7NO3
reactant | di(1H-imidazol-1-yl)methanone | 0.53 mmol, 86 mg | N1(C=NC=C1)C(=O)N1C=NC=C1 | C7H6N4O
reactant | 7-fluoro-1,2,3,4-tetrahydroquinoline hydrochloride | 0.45 mmol, 84.4 mg | Cl.FC1=CC=C2CCCNC2=C1
solvent | THF | 6 mL | C1CCOC1 | C4H8O
product | (7-Fluoro-3,4-dihydroquinolin-1(2H)-yl)(8-hydroxyquinolin-7-yl)methanone | 0.06 mmol, 19 mg | FC1=CC=C2CCCN(C2=C1)C(=O)C1=CC=C2C=CC=NC2=C1O | C19H15FN2O2
